US05789430
A mixture of 3.12 g (10 mmol) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol and 45 ml of absolute tetrahydrofuran is treated at -20° C. with 8.4 ml (21 mmol) of n-butyl-lithium in hexane and the mixture is stirred at 0° C. for 30 minutes. The reaction mixture is then cooled to -70° C., treated with 2.18 g (10 mmol) of diphenyl disulphide and slowly defrosted to room temperature, with stirring. Stirring is continued for another 19 hours at room temperature, and the mixture is diluted with ethyl acetate and repeatedly extracted by shaking with saturated aqueous sodium carbonate solution. The organic phase is dried over sodium sulphate and concentrated under reduced pressure. The 4.2 g of residue which remains is chromatographed over 500 g of silica gel using a mixture of petroleum ether/ethyl acetate=2:1. After the eluate has evaporated, 3.5 g (84% of theory) of 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-phenylthio-1,2,4-triazol-1-yl)-propan-2-ol are obtained in the form of an oil.

reactant | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 10 mmol, 3.12 g | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1)O | C14H15Cl2N3O
reactant | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
reactant | n-butyl-lithium | 21 mmol, 8.4 ml | C(CCC)[Li]
reactant | diphenyl disulphide | 10 mmol, 2.18 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-chloro-cyclopropyl)-1-(2-chlorophenyl)-3-(5-phenylthio-1,2,4-triazol-1-yl)-propan-2-ol | 3.5 g, 84% | ClC1(CC1)C(CC1=C(C=CC=C1)Cl)(CN1N=CN=C1SC1=CC=CC=C1)O | C20H19Cl2N3OS
